US07923450B2
a) 6-[1-Dimethylamino-methylidene]-2-methyl-2-phenylcyclohexanone
A mixture 2-methyl-2-phenylcyclohexanone (94 mg, 0.5 mmol) and tert.-butoxy-bis-(dimethylamino)-methane (0.16 mL, 0.77 mmol) was stirred at 110° C. for 1.5 h, whereupon it was cooled and evaporated under reduced pressure. Toluene (3 mL) was added to the residue and the solution was evaporated again to give the title compound (124 mg) as red oil which was used without further purification. MS ISP (m/e): 244.4 [(M+H)+].

reactant | 2-methyl-2-phenylcyclohexanone | 0.5 mmol, 94 mg | CC1(C(CCCC1)=O)C1=CC=CC=C1 | C13H16O
reactant | tert.-butoxy-bis-(dimethylamino)-methane | 0.77 mmol, 0.16 mL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 6-[1-Dimethylamino-methylidene]-2-methyl-2-phenylcyclohexanone | 124 mg | CN(C=C1CCCC(C1=O)(C1=CC=CC=C1)C)C | C16H21NO
